US08133885B2
Oxalyl chloride (436 μL, 5 mmol) was carefully added dropwise, with stirring, to DMF (0.5 ml) at 0° C. then held for 25 minutes. A solution of cis-2,2,2-trifluoro-N-(1,2,3,4,10,14b-hexahydro-10-methyldibenzo[b,f]pyrido[1,2-d][1,4]diazepin-2-yl)acetamide (9: R2=COCF3) (400 mg, 1.07 mmol) in DMF (2 ml) was added dropwise to the resulting suspension and the reaction mixture heated to 80° C. and held for 1.5 hours. The reaction was cooled to ambient temperature and quenched by dropwise addition of NaHCO3 solution in H2O. The product was extracted into EtOAc, dried (Na2SO4) and concentrated under reduced pressure. Then the crude product was purified by column chromatography on silica to afford cis-2,2,2-trifluoro-N-(8-formyl-1,2,3,4,10,14b-hexahydro-10-methyldibenzo[b,f]pyrido[1,2-d][1,4]diazepin-2-yl)acetamide (9: R2=COCF3; R8=CHO) (130 mg, 30%). Data: (m/z)=404 (M+H)+. [Column chromatography also afforded cis-2,2,2-trifluoro-N-(6-formyl-1,2,3,4,10,14b-hexahydro-10-methyldibenzo[b,f]pyrido[1,2-d][1,4]diazepin-2-yl)acetamide (9: R2=COCF3; R6=CHO) (45 mg, 10%). Data: (m/z)=404 (M+H)+.]

reactant | Oxalyl chloride | 5 mmol, 436 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | cis-2,2,2-trifluoro-N-(1,2,3,4,10,14b-hexahydro-10-methyldibenzo[b,f]pyrido[1,2-d][1,4]diazepin-2-yl)acetamide | 1.07 mmol, 400 mg | FC(C(=O)N[C@@H]1C[C@@H]2N(C3=C(N(C4=C2C=CC=C4)C)C=CC=C3)CC1)(F)F | C20H20F3N3O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | cis-2,2,2-trifluoro-N-(8-formyl-1,2,3,4,10,14b-hexahydro-10-methyldibenzo[b,f]pyrido[1,2-d][1,4]diazepin-2-yl)acetamide | FC(C(=O)N[C@@H]1C[C@@H]2N(C3=C(N(C4=C2C=CC=C4)C)C=C(C=C3)C=O)CC1)(F)F | C21H20F3N3O2
